US07902252B2
2.91. Synthesis of 4-(3-cyclopropylbenzyl)-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylic acid (73)
The title compound was synthesized from methyl 4-(3-cyclopropylbenzyl)-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylate (0.020 g, 0.068 mmol) and lithium hydroxide (0.030 g, 0.71 mmol in 1 mL water), according to General Procedure 7. A 1:1 mixture of methanol (MeOH) and THF (2 mL) was used. The resulting product was purified by reverse phase HPLC, eluting with a gradient of 40-100% MeOH: water (with 0.1% formic acid) to afford the title compound: 2.2 mg, 12% yield. 1H NMR (400 MHz, METHANOL-d4) δ ppm 0.61-0.66 (m, 2H), 0.92 (s, 2H), 1.86 (s, 1H), 2.06 (s, 1H), 2.49 (s, 1H), 2.59 (s, 2H), 2.72 (d, J=7.03 Hz, 2H), 3.23 (s, 1H), 6.30 (s, 1H), 6.84 (s, 1H), 6.96 (s, 1H), 7.12 (s, 1H); LCMS-MS (ESI−) 280.1 (M−H); HPLC (UV=100%), (ELSD=100%).

reactant | methyl 4-(3-cyclopropylbenzyl)-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylate | 0.068 mmol, 0.020 g | C1(CC1)C=1C=C(CC2CCC=3NC(=CC32)C(=O)OC)C=CC1 | C19H21NO2
reactant | lithium hydroxide | 0.71 mmol, 1 mL, 0.030 g | [OH-].[Li+]
reactant | methanol | CO | CH4O
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | 4-(3-cyclopropylbenzyl)-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylic acid | C1(CC1)C=1C=C(CC2CCC=3NC(=CC32)C(=O)O)C=CC1 | C18H19NO2
